US05496952
2-Fluoro-4-iodo-3-methylpyridine (6)
To a solution of LDA, freshly prepared from diisopropylamine (0.126 mL, 0.899 mmol) and n-BuLi (0.899 mmol), in THF (2 mL) at -78° C. is cannulated a solution of 2-fluoro-3-iodopyridine (200 mg, 0.897 mmol) in 0.4 mL of THF, and the mixture is stirred for 1 hour at -78° C. under nitrogen. Iodomethane (0.17 mL, 2.73 mmol) is added neat and the mixture is stirred for 30 min. at -78° C. The mixture is quenched with saturated sodium bicarbonate solution at -78° C. and then extracted with ether. Combined ether extracts are dried (MgSO4) and concentrated in vacuo. The residue is purified by radial plc (silica gel, hexanes) to give 154 mg (72%) of product as an off-white solid having amp of 90-91 ° C.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 0.899 mmol, 0.126 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 0.899 mmol | [Li]CCCC
reactant | 2-fluoro-3-iodopyridine | 0.897 mmol, 200 mg | FC1=NC=CC=C1I | C5H3FIN
reactant | Iodomethane | 2.73 mmol, 0.17 mL | IC | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-4-iodo-3-methylpyridine | 154 mg, 72% | FC1=NC=CC(=C1C)I | C6H5FIN
